US05422358
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-hydroxyphenethyl)piperidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)piperidine (0.3 g), 4-hydroxyphenethyl bromide (0.21 g), sodium bicarbonate (0.3 g) and acetonitrile (15 ml) was heated under reflux for 5 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography, firstly on silica eluting with dichlorometbane containing methanol (0% up to 6%), and then on alumina eluting with dichloromethane containing methanol (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as colourless microcrystals, yield 0.042 g, m.p. 135°-140° C.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)piperidine | 0.3 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCCC1 | C19H22N2O
reactant | 4-hydroxyphenethyl bromide | 0.21 g | OC1=CC=C(CCBr)C=C1 | C8H9BrO
reactant | sodium bicarbonate | 0.3 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-hydroxyphenethyl)piperidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CCC1)CCC1=CC=C(C=C1)O | C27H30N2O2
